US07820673B2
1a) 2-(1-benzyl-4-piperidinyl)-5-methyl-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one
To a solution of 2-methylimidazole-4-carbaldehyde (11.0 g), 4-amino-1-benzylpiperidine (19 g) and acetic acid (6.7 ml) in 1,2-dichloroethane (200 ml), under ice-cooling, was added sodium triacetoxyborohydride (32 g), and mixed at room temperature for 15 hours. The reaction solution was washed with an aqueous potassium carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and then the residue was dissolved in THF (200 ml), N,N′-carbonyldiimidazole (18 g) and DBU (17 g) were added thereto, and mixed at room temperature for 15 hours. The reaction solution was concentrated, water was added thereto, and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column to obtain the title compound (19 g, 60%).

reactant | 2-methylimidazole-4-carbaldehyde | 11.0 g | CC=1NC=C(N1)C=O | C5H6N2O
reactant | 4-amino-1-benzylpiperidine | 19 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | acetic acid | 6.7 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 2-(1-benzyl-4-piperidinyl)-5-methyl-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one | 19 g, 60% | C(C1=CC=CC=C1)N1CCC(CC1)N1C(N2C(C1)=CN=C2C)=O | C18H22N4O
